data/mechanism_extracts/Tetrahedron/10.1016_j.tetlet.2021.153567.json
{"doi": "10.1016_j.tetlet.2021.153567", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical oxidative bromolactonization of 4-aryl-pent-4-enoic acids with NaBr to give bromomethyl-substituted gamma-butyrolactones", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "anion_initiated"], "electrochemical_role": "Anodic oxidation of bromide to bromine radical (and subsequently to a bromocation equivalent), which initiates alkene functionalization; cathode reduces protons to H2", "key_intermediates": [{"name": "Bromine radical (Br•) generated by anodic oxidation of Br-", "smiles": "[Br]", "role": "reactive"}, {"name": "Carbon-centered radical I from Br• addition to alkene of 4-phenylpent-4-enoic acid", "smiles": "OC(=O)CCC([CH2])(Ph)CBr", "role": "transient"}, {"name": "Benzylic carbocation II from anodic oxidation of radical I", "smiles": "OC(=O)CC[C+](Ph)CBr", "role": "reactive"}, {"name": "Bromomethyl gamma-butyrolactone 3a (product)", "smiles": "O=C1CCC(Ph)(CBr)O1", "role": "transient"}], "electron_flow": "Anode oxidizes Br- to Br•, which adds to the terminal alkene of the pentenoic acid to give a benzylic C-radical (I); a second anodic SET oxidizes I to a benzylic cation (II), which is trapped intramolecularly by the carboxylate to release H+ and deliver the bromomethyl gamma-lactone, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reduced yield of product, consistent with radical intermediate"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reduced yield of product, consistent with radical intermediate"}, {"name": "Molecular Br2 (no current)", "smiles": "BrBr", "purpose": "intermediate_trap", "observation": "Only trace product 3a formed, indicating that free Br2 is not the active brominating intermediate"}, {"name": "No-electricity control", "smiles": null, "purpose": "other", "observation": "No product formed without applied current, confirming electrochemical initiation"}, {"name": "Cyclic voltammetry of 1a and NaBr", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks observed at 1.76 V (1a) and 0.63 V (NaBr), indicating Br- is oxidized preferentially at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "on/off_light_or_current", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Authors explicitly rule out molecular Br2 as the active intermediate based on the Br2-only control giving trace product. Mechanism is a radical-polar crossover (Br• addition then anodic oxidation to cation, then carboxylate cyclization), supported by radical-trap suppression and CV data but no KIE or DFT."}
